US07795288B2
4-(3-Dimethylamino-propoxy)-phenylamine
The title compound is prepared as described in Example 1 for 4-(2-pyrrolidin-1-yl-ethoxy)-phenylamine but using 1-chloro-3-dimethylamino-propane hydrochloride. After a 1.3 h stirring at 75° C. (oil bath temperature) and usual work-up, purification of the crude material by silica gel (157 g) column chromatography (CH2Cl2/MeOH, 50/50) provides the title compound as a dark brown oil: ES-MS: 195.0 [M+H]+; Rf=0.13 (CH2Cl2/EtOH, 50/50).

reactant | 4-(2-pyrrolidin-1-yl-ethoxy)-phenylamine | N1(CCCC1)CCOC1=CC=C(C=C1)N | C12H18N2O
reactant | 1-chloro-3-dimethylamino-propane hydrochloride | Cl.ClCCCN(C)C
product | 4-(3-Dimethylamino-propoxy)-phenylamine | CN(CCCOC1=CC=C(C=C1)N)C | C11H18N2O
